US08865713B2
Step D: 2,4-Dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole.
To a mixture of 2,4-dichloro-1H-benzoimidazole (0.550 g, 2.94 mmol) and THF (15 mL) was added DIPEA (1.54 mL, 8.82 mmol) followed by 1-chloromethoxy-2-methoxy-ethane (0.550 g, 4.41 mmol) at 23° C. After stirring for 18 h, EtOAc (100 mL) was added. The organic layer was washed with saturated aqueous NaHCO3 (30 mL) and brine (30 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (10-50% EtOAc/hexanes to yield the titled compound as a mixture of regioisomers (0.660 g, 82%). MS (ESI/CI): mass calcd. for C11H12Cl2N2O2, 274.0; m/z found, 275.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.61 (dd, J=8.0, 1.0 Hz, 1H), 7.41 (dd, J=8.1, 0.9 Hz, 1H), 7.33 (dd, J=7.9, 1.0 Hz, 1H), 7.31-7.20 (m, 3H), 5.98 (s, 2H), 5.66 (s, 2H), 3.76-3.69 (m, 2H), 3.67-3.60 (m, 2H), 3.55-3.46 (m, 4H), 3.37 (s, 3H), 3.36 (s, 3H).

reactant | 2,4-dichloro-1H-benzoimidazole | 2.94 mmol, 0.550 g | ClC1=NC2=C(N1)C=CC=C2Cl | C7H4Cl2N2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | DIPEA | 8.82 mmol, 1.54 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloromethoxy-2-methoxy-ethane | 4.41 mmol, 0.550 g | ClCOCCOC | C4H9ClO2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2,4-Dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | ClC1=NC2=C(N1COCCOC)C=CC=C2Cl | C11H12Cl2N2O2
